US06617339B1
5(R)-1,2,5-Thiadiazol-3-yloxymethyl-3-(3-fluoro4-(1-(2(S),3-dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one
1N aqueous HCl (1 ml) was added to a solution of 5(R)-(1,2,5-thiadiazol-3-yloxymethyl)-3-(3-fluoro4-(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one (0.154 g, 0.32 mmol) in THF (3 ml) and the solution kept for two days. The solution was evaporated and the residue azeotroped twice with ethanol. The residue was purified by chromatography on a BondElut silica column, eluting first with dichloromethane and then 2% MeOH/dichloromethane to give the title product (37 mg, 26%) as a solid. MS: 465 (MH+); NMR(400 MHz): 2.5 (2H+DMSO); 3.3 (1H, s)3.4 (1H, m); 3.5 (1H, m); 3.76 (1H, m); 4.0 (1H, t); 4.15 (1H, s); 4.26 (1H, t); 4.4 (1H, m); 4.8 (3H, m); 4.97 (1H, m); 5.18 (1H, m); 6.03 (1H, s); 7.32-7.46 (2H, m); 7.53 (1H, d); 8.47 (1H, s).

reactant | HCl | 1N, 1 ml | Cl | ClH
reactant | 5(R)-(1,2,5-thiadiazol-3-yloxymethyl)-3-(3-fluoro4-(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one | 0.32 mmol, 0.154 g | S1N=C(C=N1)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)C(=O)[C@H]1OC(OC1)(C)C)F | C23H25FN4O6S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5(R)-1,2,5-Thiadiazol-3-yloxymethyl-3-(3-fluoro4-(1-(2(S),3-dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one | 37 mg, 26% | S1N=C(C=N1)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)C([C@H](CO)O)=O)F | C20H21FN4O6S
